Truncated Datasets/Truncated Pathways Dataset (first 1000 rows).csv
original_reactions,updated_reaction,mechanistic_class,mechanistic_label,data_source
Cl[C:1]([CH2:2][CH2:3][CH2:4][CH2:5][CH2:6][CH2:7][CH2:8][CH2:9][CH2:10][CH2:11][CH2:12][CH2:13][CH2:14][CH2:15][CH2:16][CH2:17][CH3:18])=[O:19].[CH3:20][CH2:21][CH2:22][CH2:23][CH2:24][CH2:25][CH2:26][CH2:27][CH2:28][CH2:29][CH2:30][CH2:31][CH2:32][CH2:33][CH2:34][CH2:35][CH2:36][CH2:37][NH:38][CH:39]1[O:40][C@H:41]([CH2:42][OH:43])[C@@H:44]([OH:45])[C@H:46]([OH:47])[C@H:48]1[OH:49]>>[C:1]([CH2:2][CH2:3][CH2:4][CH2:5][CH2:6][CH2:7][CH2:8][CH2:9][CH2:10][CH2:11][CH2:12][CH2:13][CH2:14][CH2:15][CH2:16][CH2:17][CH3:18])(=[O:19])[N:38]([CH2:37][CH2:36][CH2:35][CH2:34][CH2:33][CH2:32][CH2:31][CH2:30][CH2:29][CH2:28][CH2:27][CH2:26][CH2:25][CH2:24][CH2:23][CH2:22][CH2:21][CH3:20])[CH:39]1[O:40][C@H:41]([CH2:42][OH:43])[C@@H:44]([OH:45])[C@H:46]([OH:47])[C@H:48]1[OH:49],[CH3:20][CH2:21][CH2:22][CH2:23][CH2:24][CH2:25][CH2:26][CH2:27][CH2:28][CH2:29][CH2:30][CH2:31][CH2:32][CH2:33][CH2:34][CH2:35][CH2:36][CH2:37][NH:38][CH:39]1[O:40][C@H:41]([CH2:42][OH:43])[C@@H:44]([OH:45])[C@H:46]([OH:47])[C@H:48]1[OH:49].[Cl:101][C:1]([CH2:2][CH2:3][CH2:4][CH2:5][CH2:6][CH2:7][CH2:8][CH2:9][CH2:10][CH2:11][CH2:12][CH2:13][CH2:14][CH2:15][CH2:16][CH2:17][CH3:18])=[O:19]>>[C:1]([CH2:2][CH2:3][CH2:4][CH2:5][CH2:6][CH2:7][CH2:8][CH2:9][CH2:10][CH2:11][CH2:12][CH2:13][CH2:14][CH2:15][CH2:16][CH2:17][CH3:18])(=[O:19])[N:38]([CH2:37][CH2:36][CH2:35][CH2:34][CH2:33][CH2:32][CH2:31][CH2:30][CH2:29][CH2:28][CH2:27][CH2:26][CH2:25][CH2:24][CH2:23][CH2:22][CH2:21][CH3:20])[CH:39]1[O:40][C@H:41]([CH2:42][OH:43])[C@@H:44]([OH:45])[C@H:46]([OH:47])[C@H:48]1[OH:49],nucleophilic_attack_to_(thio)carbonyl_or_sulfonyl,"[(38, 1), ([1, 19], 19), (19, [19, 1]), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
CCO[C:1](=[O:2])[CH2:3][CH2:4][c:5]1[cH:6][cH:7][o:8][cH:9]1>>[CH2:1]([OH:2])[CH2:3][CH2:4][c:5]1[cH:6][cH:7][o:8][cH:9]1,CC[O:101][C:1](=[O:2])[CH2:3][CH2:4][c:5]1[cH:6][cH:7][o:8][cH:9]1.[AlH4-:301].[AlH4-:302].[H+:303]>>[CH2:1]([OH:2])[CH2:3][CH2:4][c:5]1[cH:6][cH:7][o:8][cH:9]1,ester_reduction,"[([301, 301.1], 1), ([1, 2], 2), (2, [2, 1]), ([1, 101], 101), ([302, 302.1], 1), ([1, 2], 2), (2, 303)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
Br[CH2:1][C:2]([O:3][CH2:4][CH3:5])=[O:6].[OH:7][c:8]1[cH:9][cH:10][cH:11][c:12]([NH:13][CH2:14][c:15]2[cH:16][c:17](-[c:18]3[cH:19][cH:20][cH:21][c:22]([F:23])[cH:24]3)[cH:25][cH:26][c:27]2[F:28])[cH:29]1>>[CH2:1]([C:2]([O:3][CH2:4][CH3:5])=[O:6])[O:7][c:8]1[cH:9][cH:10][cH:11][c:12]([NH:13][CH2:14][c:15]2[cH:16][c:17](-[c:18]3[cH:19][cH:20][cH:21][c:22]([F:23])[cH:24]3)[cH:25][cH:26][c:27]2[F:28])[cH:29]1,[OH:7][c:8]1[cH:9][cH:10][cH:11][c:12]([NH:13][CH2:14][c:15]2[cH:16][c:17](-[c:18]3[cH:19][cH:20][cH:21][c:22]([F:23])[cH:24]3)[cH:25][cH:26][c:27]2[F:28])[cH:29]1.[Br:101][CH2:1][C:2]([O:3][CH2:4][CH3:5])=[O:6].[H-:301].[Na+]>>[CH2:1]([C:2]([O:3][CH2:4][CH3:5])=[O:6])[O:7][c:8]1[cH:9][cH:10][cH:11][c:12]([NH:13][CH2:14][c:15]2[cH:16][c:17](-[c:18]3[cH:19][cH:20][cH:21][c:22]([F:23])[cH:24]3)[cH:25][cH:26][c:27]2[F:28])[cH:29]1,SN2_alcohol(thiol),"[(301, 7.1), ([7.1, 7], 7), (7, 1), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
CC(C)(C)OC(=O)O[C:6]([O:5][C:2]([CH3:1])([CH3:3])[CH3:4])=[O:7].[CH3:8][NH:9][CH2:10][CH2:11][NH:12][CH3:13]>>[CH3:1][C:2]([CH3:3])([CH3:4])[O:5][C:6](=[O:7])[N:9]([CH3:8])[CH2:10][CH2:11][NH:12][CH3:13],CC(C)(C)[O:202][C:201](=O)[O:101][C:6]([O:5][C:2]([CH3:1])([CH3:3])[CH3:4])=[O:7].[CH3:8][NH:9][CH2:10][CH2:11][NH:12][CH3:13]>>[CH3:1][C:2]([CH3:3])([CH3:4])[O:5][C:6](=[O:7])[N:9]([CH3:8])[CH2:10][CH2:11][NH:12][CH3:13],nucleophilic_attack_to_(thio)carbonyl_or_sulfonyl,"[(9, 6), ([6, 7], 7), (7, [7, 6]), ([6, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
Cl[CH2:1][CH2:2][CH2:3][CH2:4][CH:5]1[CH2:6][N:7]([CH:8]([CH3:9])[CH3:10])[C:11](=[O:12])[O:13]1.[OH:15][c:16]1[cH:17][cH:18][cH:19][cH:20][c:21]1[N:22]1[CH2:23][CH2:24][NH:25][CH2:26][CH2:27]1>>[CH2:1]([CH2:2][CH2:3][CH2:4][CH:5]1[CH2:6][N:7]([CH:8]([CH3:9])[CH3:10])[C:11](=[O:12])[O:13]1)[N:25]1[CH2:24][CH2:23][N:22]([c:21]2[c:16]([OH:15])[cH:17][cH:18][cH:19][cH:20]2)[CH2:27][CH2:26]1,[Cl:101][CH2:1][CH2:2][CH2:3][CH2:4][CH:5]1[CH2:6][N:7]([CH:8]([CH3:9])[CH3:10])[C:11](=[O:12])[O:13]1.[OH:15][c:16]1[cH:17][cH:18][cH:19][cH:20][c:21]1[N:22]1[CH2:23][CH2:24][NH:25][CH2:26][CH2:27]1>>[CH2:1]([CH2:2][CH2:3][CH2:4][CH:5]1[CH2:6][N:7]([CH:8]([CH3:9])[CH3:10])[C:11](=[O:12])[O:13]1)[N:25]1[CH2:24][CH2:23][N:22]([c:21]2[c:16]([OH:15])[cH:17][cH:18][cH:19][cH:20]2)[CH2:27][CH2:26]1,SN2,"[(25, 1), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
